US03976657
C. [3-Chloro-4-[3-(2-furanyl)-1,2,4-oxadiazol-5-yl]phenyl]carbamic acid, phenyl ester
To a mixture of 5-(4-amino-2-chlorophenyl)--3-(2-furanyl)-1,2,4-oxadiazole (0.75 g) and 0.56 g of potassium carbonate in 30 ml of dioxane is added 0.94 g of phenyl chloroformate. The resulting mixture is heated at reflux for 2 hours and concentrated to dryness. 50 ml of water is added to the residue and the resulting mixture is extracted three times with 300 ml of chloroform. The residue is recrystallized from benzene to yield 0.75 g of the title compound, melting point 184°-185.5°C.

reactant | 5-(4-amino-2-chlorophenyl)--3-(2-furanyl)-1,2,4-oxadiazole | 0.75 g | NC1=CC(=C(C=C1)C1=NC(=NO1)C=1OC=CC1)Cl | C12H8ClN3O2
reactant | potassium carbonate | 0.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenyl chloroformate | 0.94 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | [3-Chloro-4-[3-(2-furanyl)-1,2,4-oxadiazol-5-yl]phenyl]carbamic acid, phenyl ester | 0.75 g | ClC=1C=C(C=CC1C1=NC(=NO1)C=1OC=CC1)NC(OC1=CC=CC=C1)=O | C19H12ClN3O4
